US08067426B2
6-Amino-2-(butyloxy)-9-[3-(1-pyrrolidinyl)propyl]-7,9-dihydro-8H-purin-8-one
2-(Butyloxy)-8-(methyloxy)-9-[3-(1-pyrrolidinyl)propyl]-9H-purin-6-amine (49 mg, 0.141 mmol) was dissolved in methanol (5 ml) and 4M hydrogen chloride in 1,4-dioxane (0.879 ml, 3.52 mmol) was added and the mixture stirred at room temperature for 5 hours. The solvent was removed in vacuo to give a cream solid which was dissolved in methanol and loaded onto an aminopropyl SPE cartridge (2 g) and eluted with methanol. The solvent was evaporated to give the title compound as a white solid (43 mg).

reactant | 2-(Butyloxy)-8-(methyloxy)-9-[3-(1-pyrrolidinyl)propyl]-9H-purin-6-amine | 0.141 mmol, 49 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCN1CCCC1)OC)N | C17H28N6O2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 3.52 mmol, 0.879 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 6-Amino-2-(butyloxy)-9-[3-(1-pyrrolidinyl)propyl]-7,9-dihydro-8H-purin-8-one | 43 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCN1CCCC1)=O | C16H26N6O2
